* g:\esim-workspace\water_level_indicator\water_level_indicator.cir

.include BC547B.lib
.include LED.lib
v4  v4 gnd pulse(0 1 7 1m 1m 10 2)
v2  v2 gnd pulse(0 1 3 1m 1m 10 2)
v1  v1 gnd pulse(0 1 1 1m 1m 10 2s)
r1  v1 net-_q1-pad2_ 2.2k
r3  v2 net-_q2-pad2_ 2.2k
r5  v3 net-_q3-pad2_ 2.2k
r7  v4 net-_q4-pad2_ 2.2k
r2  net-_q1-pad1_ net-_d1-pad2_ 100
r4  net-_q2-pad1_ net-_d2-pad2_ 100
r6  net-_q3-pad1_ net-_d3-pad2_ 100
r8  net-_q4-pad1_ net-_d4-pad2_ 100
v5 net-_d1-pad1_ gnd  dc 5v
v3  v3 gnd pulse(0 1 5 1m 1m 10 2)
* u1  v1 plot_v1
* u2  v2 plot_v1
* u3  v3 plot_v1
* u4  v4 plot_v1
d1 net-_d1-pad1_ net-_d1-pad2_ LED
d2 net-_d1-pad1_ net-_d2-pad2_ LED
d3 net-_d1-pad1_ net-_d3-pad2_ LED
q3 net-_q3-pad1_ net-_q3-pad2_ gnd BC547B
q2 net-_q2-pad1_ net-_q2-pad2_ gnd BC547B
q1 net-_q1-pad1_ net-_q1-pad2_ gnd BC547B
* u7  net-_d1-pad1_ net-_d3-pad2_ plot_i2
* u6  net-_d1-pad1_ net-_d2-pad2_ plot_i2
* u5  net-_d1-pad1_ net-_d1-pad2_ plot_i2
q4 net-_q4-pad1_ net-_q4-pad2_ gnd BC547B
* u9  net-_d4-pad2_ net-_q4-pad1_ plot_i2
d4 net-_d1-pad1_ net-_d4-pad2_ LED
* u8  net-_d1-pad1_ net-_d4-pad2_ plot_i2
v_u7 net-_d1-pad1_ net-_d3-pad2_ 0
v_u6 net-_d1-pad1_ net-_d2-pad2_ 0
v_u5 net-_d1-pad1_ net-_d1-pad2_ 0
v_u9 net-_d4-pad2_ net-_q4-pad1_ 0
v_u8 net-_d1-pad1_ net-_d4-pad2_ 0
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v1)
plot v(v2)
plot v(v3)
plot v(v4)
plot i(v_u7)
plot i(v_u6)
plot i(v_u5)
plot i(v_u9)
plot i(v_u8)
.endc
.end
